### PR TITLE
[Merged by Bors] - feat: port Data.Fintype.Basic

### PR DESCRIPTION
**Pull request by ChrisHughes24**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Fintype/Basic.lean [hunk 1]
```diff
@@ -13,37 +17,1345 @@ This file defines a typeclass to state that a type is finite.
 
 ## Main declarations
 
-* `Fintype α`: Typeclass saying that a type is finite. It takes as fields a `Finset` and a proof
+* `Fintype α`:  Typeclass saying that a type is finite. It takes as fields a `finset` and a proof
```
Comment (jcommelin) [inline Mathlib/Data/Fintype/Basic.lean:20]:
```suggestion
* `Fintype α`:  Typeclass saying that a type is finite. It takes as fields a `Finset` and a proof
```

File: Mathlib/Data/Fintype/Basic.lean [hunk 2]
```diff
@@ -13,37 +17,1345 @@ This file defines a typeclass to state that a type is finite.
...
+  Function.Embedding.right_inv_of_invOfMemRange
+
+theorem invFun_restrict [Nonempty α] : (Set.range f).restrict (invFun f) = f.invOfMemRange :=
+  by
+  ext ⟨b, h⟩
+  apply f.injective
+  simp [f.left_inv_of_invOfMemRange, @invFun_eq _ _ _ f b (Set.mem_range.mp h)]
+#align function.embedding.inv_fun_restrict Function.Embedding.invFun_restrict
+
+theorem inv_of_mem_range_surjective : Function.Surjective f.invOfMemRange := fun a =>
```
Comment (jcommelin) [inline Mathlib/Data/Fintype/Basic.lean:556]:
```suggestion
theorem invOfMemRange_surjective : Function.Surjective f.invOfMemRange := fun a =>
```

File: Mathlib/Data/Fintype/Basic.lean [hunk 3]
```diff
@@ -13,37 +17,1345 @@ This file defines a typeclass to state that a type is finite.
...
+
+instance List.Subtype.fintype [DecidableEq α] (l : List α) : Fintype { x // x ∈ l } :=
+  Fintype.ofList l.attach l.mem_attach
+#align list.subtype.fintype List.Subtype.fintype
+
+instance Multiset.Subtype.fintype [DecidableEq α] (s : Multiset α) : Fintype { x // x ∈ s } :=
+  Fintype.ofMultiset s.attach s.mem_attach
+#align multiset.subtype.fintype Multiset.Subtype.fintype
+
+instance Finset.subtype.fintype (s : Finset α) : Fintype { x // x ∈ s } :=
```
Comment (jcommelin) [inline Mathlib/Data/Fintype/Basic.lean:985]:
```suggestion
instance Finset.Subtype.fintype (s : Finset α) : Fintype { x // x ∈ s } :=
```

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Logic/Basic.lean [hunk 4]
```diff
@@ -456,6 +456,12 @@ theorem heq_of_cast_eq : ∀ (e : α = β) (_ : cast e a = a'), HEq a a'
 theorem cast_eq_iff_heq : cast e a = a' ↔ HEq a a' :=
   ⟨heq_of_cast_eq _, fun h ↦ by cases h; rfl⟩
 
+--Porting note: new theroem. More general version of `eqRec_heq`
```
Comment (jcommelin) [inline Mathlib/Logic/Basic.lean:459]:
```suggestion
--Porting note: new theorem. More general version of `eqRec_heq`
```
